.SUBCKT BT134-E 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=1.885e-001 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 3.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 9.036e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 9.036e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -1.000e-002 1 1 6.667e-001
CON 3 20 1.500e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -1.000e-002 1 1 -6.667e-001
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT134-F 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=1.885e-001 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 3.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.799e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.799e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -2.500e-002 1 1 1.667e+000
CON 3 20 3.750e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -2.500e-002 1 1 -1.667e+000
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT134-G 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=1.885e-001 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 1.500e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.619e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.619e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -5.000e-002 1 1 1.667e+000
CON 3 20 7.500e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -5.000e-002 1 1 -1.667e+000
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT134 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=1.885e-001 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 1.500e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.712e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.712e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -3.500e-002 1 1 2.333e+000
CON 3 20 5.250e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -3.500e-002 1 1 -2.333e+000
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT134W 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=6.492e-001 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 1.500e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.712e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.712e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -3.500e-002 1 1 2.333e+000
CON 3 20 5.250e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -3.500e-002 1 1 -2.333e+000
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT136-E 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.001)
*.MODEL DMOD D (IS=1.0e-12 N=0.01)
.MODEL DMOD D (IS=1.0e-12 N=1 epsilon=0.05)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=1.885e-001 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 3.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 9.036e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 9.036e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -1.000e-002 1 1 6.667e-001
CON 3 20 1.500e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -1.000e-002 1 1 -6.667e-001
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT136-F 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=1.885e-001 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 3.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.799e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.799e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -2.500e-002 1 1 1.667e+000
CON 3 20 3.750e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -2.500e-002 1 1 -1.667e+000
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT136-G 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=1.885e-001 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 1.500e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.619e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.619e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -5.000e-002 1 1 1.667e+000
CON 3 20 7.500e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -5.000e-002 1 1 -1.667e+000
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT136 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=1.885e-001 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 1.500e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.712e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.712e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -3.500e-002 1 1 2.333e+000
CON 3 20 5.250e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -3.500e-002 1 1 -2.333e+000
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT137-E 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=8.747e-002 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 4.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 9.036e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 9.036e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -1.000e-002 1 1 5.000e-001
CON 3 20 1.500e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -1.000e-002 1 1 -5.000e-001
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT137-F 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=8.747e-002 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 4.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.799e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.799e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -2.500e-002 1 1 1.250e+000
CON 3 20 3.750e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -2.500e-002 1 1 -1.250e+000
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT137-G 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=8.747e-002 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 2.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.619e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.619e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -5.000e-002 1 1 1.250e+000
CON 3 20 7.500e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -5.000e-002 1 1 -1.250e+000
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT137 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=8.747e-002 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 2.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.712e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.712e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -3.500e-002 1 1 1.750e+000
CON 3 20 5.250e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -3.500e-002 1 1 -1.750e+000
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT138-E 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=5.761e-002 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 6.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 9.036e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 9.036e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -1.000e-002 1 1 3.333e-001
CON 3 20 1.500e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -1.000e-002 1 1 -3.333e-001
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT138-F 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=5.761e-002 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 6.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.799e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.799e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -2.500e-002 1 1 8.333e-001
CON 3 20 3.750e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -2.500e-002 1 1 -8.333e-001
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT138-G 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=5.761e-002 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 3.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.619e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.619e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -5.000e-002 1 1 8.333e-001
CON 3 20 7.500e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -5.000e-002 1 1 -8.333e-001
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT139-F 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=4.034e-002 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 6.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.799e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.799e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -2.500e-002 1 1 8.333e-001
CON 3 20 3.750e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -2.500e-002 1 1 -8.333e-001
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT139-G 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=4.034e-002 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 3.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.619e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.619e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -5.000e-002 1 1 8.333e-001
CON 3 20 7.500e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -5.000e-002 1 1 -8.333e-001
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BT139 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=3.120e+002 BV=6.000e-004)
.MODEL DBREAK D (BV=6.000e-004)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 9.091e-006
CRISE 14 20 6.667e+000
DGATE1 g1 7 DGAT
VGD1 7 20 DC -6.961e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC -6.961e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -1.500e+000 1 1 1.500e-002
CON 3 20 1.800e+001 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -1.500e+000 1 1 -1.500e-002
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BTA140 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=2.488e-002 BV=6.000e+002)
.MODEL DBREAK D (BV=6.000e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.000e+006
CRISE 14 20 3.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 8.712e-001
DGATE2 70 g2 DGAT
VGD2 20 70 DC 8.712e-001
FC1 3 20 poly(3) VGD1 VGD2 V1 -3.500e-002 1 1 1.167e+000
CON 3 20 5.250e-008 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -3.500e-002 1 1 -1.167e+000
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS

.SUBCKT BTW43 10 30 20
* 10--MT2, 30--G, 20--MT1
.MODEL DGAT D (IS=1.0e-12 N=1 RS=0.01)
.MODEL DMOD D (IS=1.0e-12 N=0.001)
.MODEL DON D (IS=1.000e-012 N=1.000e+000 RS=7.034e-002 BV=7.200e+002)
.MODEL DBREAK D (BV=7.200e+002)
R 30 20 1k
eg1 g1 0 30 20 1
eg2 g2 0 30 20 1
V1 10 14 DC 0
DON1 14 22 DON
E1 22 20 poly(2) 10 20 3 20 0 0 0 0 1
DBRK1 14 27 DBREAK
DBRK2 20 27 DBREAK
RLEAK 14 20 1.200e+005
CRISE 14 20 5.000e-010
DGATE1 g1 7 DGAT
VGD1 7 20 DC 1.844e+000
DGATE2 70 g2 DGAT
VGD2 20 70 DC 1.844e+000
FC1 3 20 poly(3) VGD1 VGD2 V1 -1.000e-001 1 1 1.000e+000
CON 3 20 1.500e-007 IC=1.5
DS1 3 31 DMOD
DS2 20 3 DMOD
VW 31 20 DC 1
DON2 20 220 DON
E2 220 14 POLY(2) 20 10 300 0 0 0 0 0 1
D10 300 100 DMOD
D20 0 300 DMOD
FC2 300 0 POLY(3) VGD1 VGD2 V1 -1.000e-001 1 1 -1.000e+000
VW2 100 0 DC 0.999
CON2 300 0 60e-12
.ENDS